US04310590
5-Cyano-2-phenethyl-4-isothiazolin-3-one
A mixture of 4.8 g. (0.02 mole) of 5-chloro-2-phenethyl-4-isothiazolin-3-one in 25 ml of CHCl3, 1.0 g. (0.02 mole) of sodium cyanide in 5 ml of water and 0.015 g of tetrabutyl ammonium bromide was heated under reflux for 1 hour, while stirring. The mixture was then washed with water, dried, and concentrated to give a gummy brown residue, which was recrystallized from 300 ml of ethanol to give 0.15 g. of the named product, mp 228°-230 (softened at 210°).

reactant | 5-chloro-2-phenethyl-4-isothiazolin-3-one | 0.02 mole | ClC1=CC(N(S1)CCC1=CC=CC=C1)=O | C11H10ClNOS
reactant | sodium cyanide | 0.02 mole | [C-]#N.[Na+]
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
catalyst | tetrabutyl ammonium bromide | 0.015 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-Cyano-2-phenethyl-4-isothiazolin-3-one | C(#N)C1=CC(N(S1)CCC1=CC=CC=C1)=O | C12H10N2OS
